US08648333B2
a. 5-chloro-3′-phenyl-2-methylbiphenyl
To a 2 L round bottle flask equipped with reflux condenser, stir bar, nitrogen feed, and oil bath were added 2-bromo-4-chlorotoluene (20.67 g, 98.59 mmol), 3-biphenylboronic acid (20.50 g 103.52 mmol), sodium carbonate (158 mL, 315 mmol), Aliquat 336 (4.00 g) and toluene (600 mL). Solution was purged with nitrogen for 20 minutes before adding tetrakis(triphenylphospine)palladium(0) (1.14 g, 0.98 mmol) and purged for another 10 minute. The reaction was then heated under nitrogen for 18 hour. After cooing to ambient temperature, the organic phase was separated, washed with 10% HCl (200 mL), water (200 mL) and saturated brine (200 mL). This solution was dried with magnesium sulfate (50 g) for 3 hour and the solvent was removed by rotary evaporation. The crude product was filtered, washing with hexane. Product containing fractions were identified by UPLC and collected. Low boiling point is impurities and solvents were removed by Kruger-Rohr distillation to give the product as colorless oil (20.2 g, 77%).

reactant | 2-bromo-4-chlorotoluene | 98.59 mmol, 20.67 g | BrC1=C(C=CC(=C1)Cl)C | C7H6BrCl
reactant | 3-biphenylboronic acid | 103.52 mmol, 20.50 g | C1(=CC(=CC=C1)B(O)O)C1=CC=CC=C1 | C12H11BO2
reactant | sodium carbonate | 315 mmol, 158 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Aliquat 336 | 4.00 g | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | toluene | 600 mL | C1(=CC=CC=C1)C | C7H8
product | 5-chloro-3′-phenyl-2-methylbiphenyl | 20.2 g, 77% | ClC=1C=CC(=C(C1)C1=CC(=CC=C1)C1=CC=CC=C1)C | C19H15Cl
